US08048878B2
Synthesis of (E)-(6S,8S,9aR)-8-fluoro-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]-6-(3,4,5-trifluorophenyl)octahydroquinolizin-4-one
Diethylaminosulfur trifluoride (13.2 μL) was added to a solution of (E)-(6S,8R,9aR)-6-(3,4,5-trifluorophenyl)-8-hydroxy-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]octahydroquinolizin-4-one that is an optically active compound obtained above with a retention time of 4.8 minutes (10 mg) in dichloromethane (2.0 mL) under ice-cooling, and the reaction solution was stirred for two hours. Crushed ice, water, and ethyl acetate were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system->ethyl acetate-methanol system) to obtain 5.9 mg of the title optically active compound. The property values of the optically active compound are as follows.

reactant | Diethylaminosulfur trifluoride | 13.2 μL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | (E)-(6S,8R,9aR)-6-(3,4,5-trifluorophenyl)-8-hydroxy-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]octahydroquinolizin-4-one | FC=1C=C(C=C(C1F)F)[C@H]1N2C(/C(/CC[C@@H]2C[C@H](C1)O)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C27H26F3N3O3
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | (E)-(6S,8S,9aR)-8-fluoro-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]-6-(3,4,5-trifluorophenyl)octahydroquinolizin-4-one | F[C@@H]1C[C@H](N2C(/C(/CC[C@@H]2C1)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O)C1=CC(=C(C(=C1)F)F)F | C27H25F4N3O2
